US08048825B2
6-Methyl-3-(2-nitrobenzyl)-[1,3]-oxazepan-2-one (1.91 g, 7.23 mmol), iron powder (2.02 g, 36.2 mmol), ammonium chloride (0.19 g, 3.55 mmol) were suspended in ethanol (30 ml) and water (15 ml) and heated to reflux for one hour. After cooling to room temperature, the reaction mixture was filtered with suction and extracted with ethyl acetate. The organic layer was washed with a saturated brine and then dried over anhydrous sodium sulfate, and 3-(2-aminobenzyl)-6-methyl-[1,3]-oxazepan-2-one (1.02 g) was obtained by evaporating the solvent under reduced pressure.

reactant | 6-Methyl-3-(2-nitrobenzyl)-[1,3]-oxazepan-2-one | 7.23 mmol, 1.91 g | CC1CCN(C(OC1)=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C13H16N2O4
reactant | ammonium chloride | 3.55 mmol, 0.19 g | [Cl-].[NH4+]
reactant | water | 15 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | iron | 36.2 mmol, 2.02 g | [Fe] | Fe
product | 3-(2-aminobenzyl)-6-methyl-[1,3]-oxazepan-2-one | 1.02 g, Yield 60% | NC1=C(CN2C(OCC(CC2)C)=O)C=CC=C1 | C13H18N2O2
